US04715994
A. [1-(Benzoxycarbonylamino)ethyl](2-methoxycarbonyl-2-propenyl)-phosphinic acid
To a stirred solution of 2.25 g (9.3 mmol) of 1-(benzyloxycarbonylamino)ethylphosphonous acid in 70 ml of methylene chloride, were added triethylamine (2.87 ml, 20 mmol), trimethylsilyl chloride (2.60 ml, 20 mmol), and methyl 2-bromomethylacrylate (1.66 g, 9.3 mmol) at 0° C. After stirring at room temperature for 20 hours, the reaction mixture was washed with H2O, 2N HCl, and then saturated NaCl solution and dried over anhydrous magnesium sulfate. The mixture obtained by filtration and evaporation was purified by silica gel chromatography (eluted with chloroform followed by 10% methanol-chloroform) to give 2.50 g (yield 79%) of the product.

reactant | 1-(benzyloxycarbonylamino)ethylphosphonous acid | 9.3 mmol, 2.25 g | C(C1=CC=CC=C1)OC(=O)NC(C)P(O)O | C10H14NO4P
reactant | triethylamine | 20 mmol, 2.87 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 20 mmol, 2.60 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | methyl 2-bromomethylacrylate | 9.3 mmol, 1.66 g | BrCC(C(=O)OC)=C | C5H7BrO2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | [1-(Benzoxycarbonylamino)ethyl](2-methoxycarbonyl-2-propenyl)-phosphinic acid | 2.50 g, yield 79% | C(C1=CC=CC=C1)OC(=O)NC(C)P(O)(=O)CC(=C)C(=O)OC | C15H20NO6P
